datasets/10k__Tet_Int.csv
SMILES Labelled
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)C1=CC=CC=C1)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)[H].[O-:21]CC 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)C)CC)C1=CC=CC=C1)[O-:10])CCCCCC>>CN([C:20](=[O:10])OC(C(C([O-:21])C)CC)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"C1=CC=CC=C1[O:10][C:20]([O-:21])(OC)OC>>[O:21]=[C:20](OC)OC.[O-:10]C1=CC=CC=C1 21=20;20,10=10"
"[H][O:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"[H]N([C:20]1(OC(C([O:21]1)C)C1=CC=CC=C1)[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C([O-:21])C)C1=CC=CC=C1)[H] 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[O][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[O]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CCCCCC)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CCCCCC)CC 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(CC)[O]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(CC)[O][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([NH:21]CC)([O][H])[O][H].[Cl-]>>[Cl-].[H][O:10][H].CC[NH+:21]=[C:20]([O][H])[O][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(CC)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C)[O]C.[Cl-]>>[Cl-].C[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C)[O]C 21=20;20,10=10"
"[H][NH:10]C([H])C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(CC)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(CC)[S][C:20]([S][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21][H])CC)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)CC)C.[O-:21][H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([S]C8=CC=CC=C8)[S]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([S]C8=CC=CC=C8)[S]CC 21=20;20,10=10"
"C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21]C)([O]CC)[O]C.[Cl-]>>[Cl-].[H][O:10][H].C[NH+:21]=[C:20]([O]CC)[O]C 21=20;20,10=10"
"CCC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CC)CC>>CCC1C(C(O[C:20](=[O:10])N1C)CC)CC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[NH][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)CCCCCC.[O-:21]CCCCCC>>[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21][H])[S]C(CC)C(C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(CC)C(C)[S]2.[H][S:10][H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CCCCCC)CCCCCC>>CN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][O+:10](C(CC)C(CC)[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[O-:21][C:20]1([H])C(O)C(O)C([H])C(C)[O:10]1>>[O-:10]C(C)C([H])C(O)C(O)[C:20]([H])=[O:21] 21=20;20,10=10"
"[O-:21][CH:20]2([H])C(C3=C(C([NH+:10]2(C))[H])C=CC=C3)[H]>>[NH:10](C)C(C1=C(C([CH:20]([H])=[O:21])[H])C=CC=C1)[H] 21=20;20,10=10"
"C(C(O[C:20](=[O:10])OC1=CC=CC=C1)CCCCCC)([O-:21])[H]>>C1(C([O:21][C:20](O1)([O-:10])OC1=CC=CC=C1)[H])CCCCCC 21=20;20,10=10"
"[O:10]([K])C(CCC)C(C)C(O)C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C(O)C(C)C(CCC)[O+:10]1([K]) 10=20;20,21=21"
"[H][S:10]C(C)C([H])[O][C:20]([S]CC)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)C)C>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)C)C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
